US07115705B2
A solution of benzoyl chloride (14.6 mL, 126.1 mmol) in dry THF (50 mL) was added to a solution of 4-hydroxymethyl-1,3-oxazolidine-2-thione (14.0 g, 105.1 mmol) in dry THF (250 mL) and triethylamine (17.5 mL, 126.1 mmol) at 0° C. After 12 hours of stirring at room temperature, triethylamine hydrochloride was filtered off, and the solvent was distilled out in vacuo. The residue was purified by silica gel column chromatography eluted with ethyl acetate/acetone (1/1=v/v), followed by recrystallization from a mixed solvent [n-hexane/ethyl acetate (3/1=v/v)] to afford benzoic acid 2-thioxo-oxazolidin-4-ylmethyl ester as a colorless solid (20.5 g, 82%).

reactant | benzoyl chloride | 126.1 mmol, 14.6 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-hydroxymethyl-1,3-oxazolidine-2-thione | 105.1 mmol, 14.0 g | OCC1NC(OC1)=S | C4H7NO2S
reactant | triethylamine | 126.1 mmol, 17.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | benzoic acid 2-thioxo-oxazolidin-4-ylmethyl ester | 20.5 g, 82% | S=C1OCC(N1)COC(C1=CC=CC=C1)=O | C11H11NO3S
